US05248672
2,5,6-Trichloro-1-(β-D-ribofuranosyl)benzimidazole (45)
2,5,6-Trichlorobenzimidazole (700 mg, 0.0032 moles) was dissolved in acetonitrile and BSTFA (1 ml, 0.0038 moles) was added. The mixture was heated at 75° C. for 20 minutes. TMSTf (1 ml, 0.0051 moles) and 1-O-acetyl-2,3,5-tri-O-benzoyl-β-D-ribofuranose (1.9 g, 0.0038 moles) were added while heating was continued for 45 min. The acetonitrile was removed under reduced pressure and the protected nucleoside was separated on a silica column, eluting with chloroform. The benzoyl protecting groups were removed by overnight treatment at room temperature with methanolic ammonia. The nucleoside was separated on a column using 50% EtOAc/hexane and then 10% MeOH/CHCl3. The isolated compound was recrystallized from methanol. Yield: (74%); MP: 185°-186° C.; TLC (10% MeOH/CHCl3): Rf=0.20; 1H NMR (DMSO-d6) δ3.68 ppm (q, 2H), 4.00 (d, 1H), 4.12 (t, 1H), 4.40 (q, 1H), 5.28 (d, 1H), 5.41 (t, 1H), 5.49 (d, 1H), 5.57 (d, 1H), 7.96 (s, 1H), 8.55 (s, 1H); 13C NMR (DMSO-d6, Broad band decoupling): d 61.08 ppm, 69.80, 71.70, 86.47, 89.16, 114.93, 120.04, 125.77, 125.97, 132.30, 140.96, 142.16; MS (Fast Atom Bombardment): m/e (M+ 6) 359, (M+ 4) 357, (M+ 2) 355, (M+) 353, 319, 285, 263, 221, 187, 177, 133, 115, 103, 97, 85.

reactant | 2,5,6-Trichlorobenzimidazole | 0.0032 moles, 700 mg | ClC=1NC2=C(N1)C=C(C(=C2)Cl)Cl | C7H3Cl3N2
reactant | BSTFA | 0.0038 moles, 1 ml | FC(C(O[Si](C)(C)C)=N[Si](C)(C)C)(F)F | C8H18F3NOSi2
reactant | TMSTf | 0.0051 moles, 1 ml | [Si](C)(C)(C)S(=O)(=O)C(F)(F)F | C4H9F3O2SSi
reactant | 1-O-acetyl-2,3,5-tri-O-benzoyl-β-D-ribofuranose | 0.0038 moles, 1.9 g | C(C)(=O)O[C@H]1[C@H](OC(C2=CC=CC=C2)=O)[C@H](OC(C2=CC=CC=C2)=O)[C@H](O1)COC(C1=CC=CC=C1)=O | C28H24O9
solvent | acetonitrile | C(C)#N | C2H3N
product | 2,5,6-Trichloro-1-(β-D-ribofuranosyl)benzimidazole | ClC1=NC2=C(N1[C@H]1[C@H](O)[C@H](O)[C@H](O1)CO)C=C(C(=C2)Cl)Cl | C12H11Cl3N2O4
